US07388020B2
i) 2-Methyl-4-[(2S)oxiranylmethoxy]-1,3-benzoxazole
A suspension of 2-methyl-1.3-benzaxozol-4-ol (0.146 g, 0.98 mmol) (P. Crabbe, A. Villarino and J. M. Muchowski, J.Chem.Soc.Perk.I, 1973,2220-2222.), (2S)-2-[(3-nitrophenoxy)methyl]oxirane (0-192 g, 1.08 mmol) and cesium carbonate (0.478 g, 1.47 mmol) in dry dimethylformamide (DMF) (4 mL) was stirred at room temperature for 4 hours. More of the oxirane (0.04 g, 0.2 mmol) was added and the reaction continued for an additional hour. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride. The aqueous phase was extracted with ethyl acetate and the combined organic phase was washed three times with water, dried and concentrated. The residue was purified by flash chromatography (silica gel, dichloromethane-ethyl acetate, 10:1) to afford the subtitle compound (0.14 g, 69.6%) as a colourless oil which solidified upon drying.

reactant | (2S)-2-[(3-nitrophenoxy)methyl]oxirane | 1.08 mmol, 0-192 g | [N+](=O)([O-])C=1C=C(OC[C@H]2OC2)C=CC1 | C9H9NO4
reactant | cesium carbonate | 1.47 mmol, 0.478 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | oxirane | 0.2 mmol, 0.04 g | O1CC1 | C2H4O
reactant | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-Methyl-4-[(2S)oxiranylmethoxy]-1,3-benzoxazole | 0.14 g, 69.6% | CC=1OC2=C(N1)C(=CC=C2)OC[C@H]2OC2 | C11H11NO3
